US08383637B2
[3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-phenyl]-carbamic acid benzyl ester
A mixture of [3-(4-Amino-3-propylaminomethyl-phenoxy)-phenyl]-carbamic acid benzyl ester (0.032 mol) and cyanogen bromide (0.035 mol) in ethanol (250 mL) was stirred and refluxed for 2 hours, then the reaction mixture was cooled to room temperature and the solvent was evaporated. The residue was converted into its free base with a NaOH solution and the resulting mixture was extracted with CH2Cl2. The organic layer was separated and the solvent was evaporated, then the residue was stirred in diisopropyl ether, filtered off and dried under vacuum to yield the title compound as a solid.

reactant | [3-(4-Amino-3-propylaminomethyl-phenoxy)-phenyl]-carbamic acid benzyl ester | 0.032 mol | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)OC1=CC(=C(C=C1)N)CNCCC)=O | C24H27N3O3
reactant | cyanogen bromide | 0.035 mol | N#CBr | CBrN
solvent | ethanol | 250 mL | C(C)O | C2H6O
product | [3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-phenyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=CC(=CC=C1)OC=1C=C2CN(C(=NC2=CC1)N)CCC)=O | C25H26N4O3
